US07375087B2
To a solution of 4-bromo-3-methylphenol (10 g) in N,N-dimethylformamide (50 mL) were added potassium carbonate (8.87 g) and benzylbromide (6.36 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with diethyl ether. The organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 4-benzyloxy-1-bromo-2-methylbenzene (14.6 g). This material was dissolved in tetrahydrofuran (200 mL). To the solution was added n-butyl lithium (2.66 mol/L n-hexane solution, 21.7 mL) at −78° C. under an argon atmosphere, and the mixture was stirred for 10 minutes. To the reaction mixture was added N,N-dimethylformamide (10.1 mL), and the mixture was allowed to warm to 0° C. and stirred for 30 minutes. The reaction mixture was poured into water, and the resulting mixture was extracted with diethyl ether. The organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 4-benzyloxy-2-methylbenzaldehyde. This material was dissolved in ethanol (100 mL). To the solution was added sodium borohydride (1.99 g), and the mixture was stirred at room temperature overnight. To the reaction mixture was added methanol, and the resulting mixture was concentrated under reduced pressure. To the residue was added a saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with diethylether. The organic layer was washed with a saturated aqueous sodium hydrogen carbonate solution, water and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethylacetate=6/1-3/1-1/1) to give the title compound (10.5 g).

reactant | 4-bromo-3-methylphenol | 10 g | BrC1=C(C=C(C=C1)O)C | C7H7BrO
reactant | potassium carbonate | 8.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzylbromide | 6.36 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 4-benzyloxy-1-bromo-2-methylbenzene | 14.6 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)Br)C | C14H13BrO
